US07816387B2
(2R,3S)-3-{[3-[Methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]-amino}carbonyl)benzoyl]amino}-4-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)butanoic acid methylester
The (2R,3S)-2-hydroxy-3-{[3-[methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]amino}carbonyl)benzoyl]amino}-4-phenylbutanoic acid methylester obtained in Reference Example 25 2.30 g (4.06 mmol) was dissolved in tetrahydrofuran 8 mL and thereto were added 3,4-dihydro-2H-pyrane 4.80 mL and p-toluenesulfonic acid pyridinium 204 mg (0.81 mmol) and the mixture was stirred under reflux for 8 hours. After distillating tetrahydrofuran off, the residue was extracted by adding ethyl acetate and 5% aqueous sodium carbonate solution. The organic layer was washed with an aqueous saturated sodium chloride solution and dried on magnesium sulfate, filtered and concentrated. The concentrated residue was purified by a column chromatography on silica gel (eluted with chloroform-methanol system) and recrystallized from a mixed solvent of ethyl acetate and hexane. A precipitated material was collected by filtering and dried to give 1.81 g (2.78 mmol) of the title compound (yield: 69%).

reactant | (2R,3S)-2-hydroxy-3-{[3-[methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]amino}carbonyl)benzoyl]amino}-4-phenylbutanoic acid methylester | COC([C@@H]([C@H](CC1=CC=CC=C1)NC(C1=CC(=CC(=C1)C(=O)N[C@H](C)C1=CC=CC=C1)N(S(=O)(=O)C)C)=O)O)=O | C29H33N3O7S
reactant | 3,4-dihydro-2H-pyrane | 4.80 mL | O1CCCC=C1 | C5H8O
reactant | p-toluenesulfonic acid pyridinium | 0.81 mmol, 204 mg | [NH+]1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | (2R,3S)-3-{[3-[Methyl(methylsulfonyl)amino]-5-({[(1R)-1-phenylethyl]-amino}carbonyl)benzoyl]amino}-4-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)butanoic acid methylester | 2.78 mmol, 1.81 g, yield: 69% | COC([C@@H]([C@H](CC1=CC=CC=C1)NC(C1=CC(=CC(=C1)C(=O)N[C@H](C)C1=CC=CC=C1)N(S(=O)(=O)C)C)=O)OC1OCCCC1)=O | C34H41N3O8S
